US06897231B2
A. Ethyl 3-(4-fluorophenyl)-1H-indazole-5-carboxylate
To a solution of 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (100 mg, 0.33 mmol) in ethanol (40 mL) was added pyridine (0.5 mL). The reaction was stirred overnight at room temperature when saturated ammonium hydroxide (1 mL) was added. The reaction was stirred overnight when water (150 mL) was added and the solution filtered. The solid was dried to recover the product (100 mg, 100% yield). 1H NMR (DMSO-d6) δ 13.6 (s, 1H), 8.62 (s, 1H), 8.03-7.9 (m, 3H), 7.70 (d, 1H), 7.61 (d, 1H), 7.42 (t, 2H); ES-MS (m/z) 285 [M+1]+.

reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.33 mmol, 100 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
reactant | water | 150 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | Ethyl 3-(4-fluorophenyl)-1H-indazole-5-carboxylate | 100 mg, 100% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)OCC | C16H13FN2O2
